US07326791B2
4-(2-aminomethylpyrrolidin-1-ylcarbonyl)-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(1H-imidazol-4-yl)ethyl]benzamide
Prepared analogously to Example 17 from 4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(1H-imidazol-4-yl)ethyl]benzamide and trifluoroacetic acid. Yield: 98% of theory; Rf value: 0.47 (silica gel; dichloromethane/methanol=7:3); C25H25C12N7O2 (526.43); mass spectrum: (M+H)+=526/528/530 (chlorine isotope).

reactant | 4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(1H-imidazol-4-yl)ethyl]benzamide | C(C)(C)(C)OC(=O)NCC1N(CCC1)C(=O)C1=C(C=C(C(=O)NC(CC=2N=CNC2)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C30H33Cl2N7O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane methanol | ClCCl.CO
product | 4-(2-aminomethylpyrrolidin-1-ylcarbonyl)-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-(1H-imidazol-4-yl)ethyl]benzamide | Yield: 98% | NCC1N(CCC1)C(=O)C1=C(C=C(C(=O)NC(CC=2N=CNC2)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C25H25Cl2N7O2
